US06552015B2
METHANESULFONIC ACID 4-(2,2,2-TRIFLUORO-ACETYLAMINO)-BUTYL ESTER
2,2,2-Trifluoro-N-(4-hydroxy-butyl)-acetamide (26.6 g, 143.66 mmol) and triethylamine 20.83 mL, 149.41 mmol) were combined in methylene chloride (290 mL) and cooled to 0° C. Methanesulfonic anhydride( 25.53 g, 146.54 mmol) dissolved in methylene chloride (90 mL) was added to the reaction dropwise over 15 minutes and the resulting clear solution was stirred in the cold for 1 hour. Reaction after 1 h was incomplete thus added more methanesulfonic anhydride (5 g, 28.72 mmol) in one portion. The reaction was stirred an additional 1 h in the cold then diluted with water (500 mL) and extracted with diethyl ether (4×500 ml). The combined organic layers were dried with magnesium sulfate and concentrated to yield the title compound (27.6 g, 73%) as a white solid which had the following properties: 1H NMR CDCl3 δ: 6.96 (brd s, 1H), 4.23 (t, J=6.2 Hz, 2H), 3.37 (q, J=6.7 and 6.7 Hz, 2H), 2.99 (s, 3H), 1.81-1.65 (m, 4H).

reactant | 2,2,2-Trifluoro-N-(4-hydroxy-butyl)-acetamide | 143.66 mmol, 26.6 g | FC(C(=O)NCCCCO)(F)F | C6H10F3NO2
reactant | triethylamine | 149.41 mmol, 20.83 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 28.72 mmol, 5 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 290 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | METHANESULFONIC ACID 4-(2,2,2-TRIFLUORO-ACETYLAMINO)-BUTYL ESTER | 27.6 g, 73% | FC(C(=O)NCCCCOS(=O)(=O)C)(F)F | C7H12F3NO4S
